US06596738B1
To an ice cooled solution of 1-[(R)-1-(tert-butyldimethylsilyloxy)-4-(1-indolyl)-2-butyl]imidazole-4-carboxamide (176.3 mg, 0.427 mmol) in THF (5 ml) was added dropwise 1.0 M Bu4NF in THF (641 ml). After the addition was completed, the reaction mixture was stirred at ice-bath temperature for 30 minutes. 25% AcONH4 (4 ml) was added, and the resulting mixture was stirred for several minutes and then extracted with ethyl acetate. The organic layer was washed with brine, dried (sodium sulfate) and concentrated in vacuo. The residue was purified by silica gel (6 g) column chromatography eluting with chloroform/methanol. (10:1) to give 1-[(R)-1-hydroxy-4-(1-indolyl)-2-butyl]imidazole-4-carboxamide (81.7 mg, 64.1%) as a white solid.

reactant | 1-[(R)-1-(tert-butyldimethylsilyloxy)-4-(1-indolyl)-2-butyl]imidazole-4-carboxamide | 0.427 mmol, 176.3 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](CCN1C=CC2=CC=CC=C12)N1C=NC(=C1)C(=O)N | C22H32N4O2Si
reactant | Bu4NF | 1.0 M | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | AcONH4 | 4 ml | C(=O)(C)[O-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 641 ml | C1CCOC1 | C4H8O
product | 1-[(R)-1-hydroxy-4-(1-indolyl)-2-butyl]imidazole-4-carboxamide | 81.7 mg, 64.1% | OC[C@@H](CCN1C=CC2=CC=CC=C12)N1C=NC(=C1)C(=O)N | C16H18N4O2
